US05434186
Preparation of 3-(3-Ethoxy-3-oxopropyl)-4-hydroxy-γ-oxobenzenebutanoic Acid Ethyl Ester
Starting with a mixture of 6.48 g (21.0 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-methoxy-γ-oxobenzenebutanoic acid and 24.4 g (0.211 mol) of pyridine hydrochloride, the title compound (2.87 g, 42.4%) was obtained as a light-tan oil, using the procedure of example 140.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-methoxy-γ-oxobenzenebutanoic acid | 21.0 mmol, 6.48 g | C(C)OC(CCC=1C=C(C=CC1OC)C(CCC(=O)O)=O)=O | C16H20O6
reactant | pyridine hydrochloride | 0.211 mol, 24.4 g | Cl.N1=CC=CC=C1
product | 3-(3-Ethoxy-3-oxopropyl)-4-hydroxy-γ-oxobenzenebutanoic Acid Ethyl Ester | 2.87 g, 42.4% | C(C)OC(CCC(C1=CC(=C(C=C1)O)CCC(=O)OCC)=O)=O | C17H22O6
